US09196484B2
Into a 200-ml flask, 8.01 g (50% by mol) of 2-methyl-4,9,6-trioxa-1-decene, 0.026 g (0.05% by mol) of hexachloroplatinic(IV) acid hydrate, and 100 g of tetrahydrofuran were charged. Into the mixed solution, 7.94 g (65% by mol) of trimethoxysilane was added dropwise under a nitrogen stream with stirring with a magnetic stirrer. After the addition, the mixture was reacted at ambient temperature for 24 hours. Then, the reaction mixture was distilled to afford 8.47 g of (3-((2-methoxyethoxy)methoxy)-2-methylpropyl)trimethoxysilane (corresponding to the compound of Formula (A-29)).

reactant | 2-methyl-4,9,6-trioxa-1-decene | 8.01 g | CC(=C)COCOCCOC | C8H16O3
reactant | trimethoxysilane | 7.94 g | CO[SiH](OC)OC | C3H10O3Si
catalyst | hexachloroplatinic(IV) acid hydrate | 0.026 g | O.Cl.Cl.Cl[Pt](Cl)(Cl)Cl
solvent | tetrahydrofuran | 100 g | O1CCCC1 | C4H8O
product | (3-((2-methoxyethoxy)methoxy)-2-methylpropyl)trimethoxysilane | 8.47 g | COCCOCOCC(C[Si](OC)(OC)OC)C | C11H26O6Si
